US05041673
(±)-(1S,2R,3R)-1-Isoamylamino-3-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-2-naphthalenol
Under argon a solution of (1R,2S,3R)-3-tert-butoxycarbonylamino-1-chloro-1,2,3,4-tetrahydro-2-naphthalenol (BOC-amino-cis-chlorohydrin) (500 mg) in anhydrous tetrahydrofuran was refluxed with isoamylamine (1.0 ml) and triethylamine (250 μl) for 5 hours at 90° C. The mixture was poured in aqueous 5% sodium bicarbonate and extracted with methylene chloride. The organic solution was dried over magnesium sulfate and evaporated under vacuum to yield an oil. Crystallization of this oil in hexane yielded the title compound as a white solid (270 mg).

reactant | (1R,2S,3R)-3-tert-butoxycarbonylamino-1-chloro-1,2,3,4-tetrahydro-2-naphthalenol | 500 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]([C@@H](C2=CC=CC=C2C1)Cl)O | C15H20ClNO3
reactant | isoamylamine | 1.0 ml | C(CC(C)C)N | C5H13N
reactant | triethylamine | 250 μl | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (±)-(1S,2R,3R)-1-Isoamylamino-3-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-2-naphthalenol | 270 mg | C(CC(C)C)N[C@@H]1[C@@H]([C@@H](CC2=CC=CC=C12)NC(=O)OC(C)(C)C)O | C20H32N2O3
